US05972943
14-Aminotetradecanol
To a suspension of N-(14-hydroxytetradecyl)phthalimide in 100 ml of methanol was added 0.87 g of hydrazine monohydrate and the mixture was heated under reflux for 3 hours. The reaction solution was distilled under reduced pressure and the residue was diluted with a 1N aqueous solution of sodium hydroxide and then extracted twice with chloroform. The organic layers were combined, washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and then distilled under reduced pressure. Chromatography over silica gel afforded the title compound as a colorless crystal.

reactant | N-(14-hydroxytetradecyl)phthalimide | OCCCCCCCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H33NO3
reactant | hydrazine monohydrate | 0.87 g | O.NN
solvent | methanol | 100 ml | CO | CH4O
product | 14-Aminotetradecanol | NCCCCCCCCCCCCCCO | C14H31NO
